US06310095B1
N-[Bromomethyl-2-(2-methylphenyl)benzoyl]methionine methyl ester
To a stirred solution at −10° C. under N2 of N-[4-hydroxymethyl-2-(2-methylphenyl)benzoyl]methionine methyl ester (200 mg, 0.517 mmol ), prepared as in Example 403F, and carbon tetrabromide (189 mg, 0.568 mmol) in CH2Cl2 (5 mL) was added triphenylphosphine (163 mg, 0.620 mmol). Reaction stirred one hour at −10° C., and then, solvents concentrated in vacuo to produce a colorless glass. The residue could not be stored, and so, was used directly in the reaction in Example 1188B.

reactant | N-[4-hydroxymethyl-2-(2-methylphenyl)benzoyl]methionine methyl ester | 0.517 mmol, 200 mg | COC([C@@H](NC(C1=C(C=C(C=C1)CO)C1=C(C=CC=C1)C)=O)CCSC)=O | C21H25NO4S
reactant | carbon tetrabromide | 0.568 mmol, 189 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.620 mmol, 163 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[Bromomethyl-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C(=CC=C1)CBr)C1=C(C=CC=C1)C)=O)CCSC)=O | C21H24BrNO3S
